Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Magnesium / Latex / Salicylate / Benzocaine
 
Attending: ___.
 
Chief Complaint:
Hypoxia and Fever
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo female with past medical history of asthma complicated by 
multiple intubation and IV drug abuse complicated by septic 
shock and septic arthritis. Patient was sent from ___ for 
ED evaluation of pneumonia after her oxygen saturation was noted 
to be low. She was discharged from ___ earlier today 
(___) after a two day stay for toxic ingestion of 
hydroxyzine. Was discharged back to ___ after note of CXR 
showing multifocal pneumonia and was subsequently started on 
levofloxacin 750 mg PO for a planned 7 day course. Had fevers at 
___ rehab today and report of decreased oxygen 
saturation. Patient notes a cough which is now productive, 
though she is unable to clarify whether cough is different from 
her chronic cough.  

In the emergency department, initial vitals were: T 101.8, HR 
146, BP 129/107, RR 26, 85% RA. Was persistently tachycardic in 
ED (sinus per EKG). Received levofloxacin at ___. In the 
ED received vancomycin and ceftriaxone. Additionally, was given 
lorazepam 2 mg IV x 1. Report by word of mouth through nursing 
staff was that patient had acute mental status change after a 
trip to bathroom in the ED. Prior to transfer to the ICU vitals 
were: HR 120s, BP 117/97, RR 25, O2Sat 97% 4L NC.  

REVIEW OF SYSTEMS:  
(+)ve: fever, cough, sputum production, wheezing, dyspnea, 
fatigue, rhinorrhea, nasal congestion, arthralgias  
(-)ve: chills, night sweats, loss of appetite, chest pain, 
palpitations, hemoptysis, orthopnea, paroxysmal nocturnal 
dyspnea, nausea, vomiting, diarrhea, constipation, hematochezia, 
melena, dysuria, urinary frequency, urinary urgency, focal 
numbness, focal weakness, myalgias  
 
Past Medical History:
1) Severe persistent asthma - multiple intubations (reports > 
20)  
2) Intravenous drug abuse - multiple detox from heroin  
3) Hepatitis C  
4) Septic shock from septic arthritis (___) - s/p left total 
knee  
replacement with washout and revision (___)  
5) Opioid dependence  
6) Chronic sinusitis  
7) s/p bilateral knee replacements for osteonecrosis ___ long 
term  
prednisone use (right knee ___, left knee ___  
8) Hypogammaglobulinemia  
9) Tobacco abuse  
10) Spontaneous pneumothorax in ___ -s/p R VATS/bleb 
resection and pleurectomy at ___ in ___  

11) Osteopenia by xray  
 
Social History:
___
Family History:
Mother - breast cancer  
Dad - asthma and hyperthyroidism  

 
Physical Exam:
VS: T 98.4, HR 116, BP 111/83, RR 26, O2Sat 92% 4L NC  
GEN: NAD, somnolent  
HEENT: left periorbital ecchymosis, PERRL, EOMI, oral mucosa 
moist, oropharynx benign, right scalp abrasion  
NECK: Supple, no ___, no thyromegaly  
PULM: tachypneic, inspiratory and expiratory wheezing with good 
air movement, diffuse rhonchi, bibasilar crackles, no accessory 
muscle use, loose-sounding cough  
CARD: Tachy, nl S1, nl S2, no M/R/G  
ABD: Tattoo across abdomen, BS+, soft, non-tender, non-distended 
 
EXT: No cyanosis, clubbing, or edema  
SKIN: Multiple ecchymoses, excoriations, and scabs (which she 
picks and removes through the exam)  
NEURO: Oriented x 3, intermittently somnolent to point where she 
nods off during middle of conversation, CN II-XII intact, motor 
grossly intact  
PSYCH: Patient with good range of affect, is somewhat 
confrontational, though appropriately frustrated with clinical 
situation  

 
Pertinent Results:
Admission Labs:
___ 04:35PM   WBC-21.5*# RBC-4.67 HGB-11.8* HCT-35.4* 
MCV-76* MCH-25.3* MCHC-33.4 RDW-18.4*
___ 04:35PM   PLT COUNT-499*
___ 04:35PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 04:35PM   CK(CPK)-88
___ 04:35PM   GLUCOSE-124* UREA N-11 CREAT-0.7 SODIUM-136 
POTASSIUM-5.3* CHLORIDE-102 TOTAL CO2-24 ANION GAP-15
___ 05:35PM   LACTATE-1.4
___ 06:22AM   CALCIUM-8.7 PHOSPHATE-5.5*# MAGNESIUM-1.8

Other labs:
TSH.34
CRP106.4

TOXICOLOGY, SERUM AND OTHER DRUGS ASA Ethanol Acetmnp Bnzodzp 
Barbitr Tricycl neg for all ___ and ___

serum positive only for methadone

Micro:
cdiff negative ___
joint fluid ___ pending
urine ___, 18 pending
blood ___ pending

Studies:

CHEST (PORTABLE AP) Study Date of ___:  
IMPRESSION: Perihilar ground-glass opacities with 
bronchiectasis, and a more focal area of opacification in the 
right lower lobe. Findings could reflect multifocal infection, 
or drug reaction, combined with non-cardiogenic pulmonary edema.

ECG ___:
Sinus tachycardia. Modest ST-T wave changes are non-specific. 
Since the 
previous tracing of ___ sinus tachycardia rate is faster and 
modest 
ST-T wave changes are present. 

Chest Xray ___:
Single AP portable view of the chest is obtained. There is 
persistent bilateral lung opacities worrisome for pneumonia. 
There is no significant change from prior study. There is a 
small right pleural effusion. Heart size cannot be assessed. 
Mediastinal contour is grossly stable. There is no pneumothorax. 
Right posterior upper rib fractures are again noted. 

CT chest:
1. Bilateral ground-glass opacities, new pneumatoceles, focal 
areas of 
atelectais-consolidation, Chronic mild upper lobe 
bronchiectasis, and focal air trapping as described above. 
Differential diagnosis is broad and includes infectious causes 
such as atypical viral/bacterial pneumonia including PCP, 
pulmonary edema secondary to drug reaction, chronic changes 
secondary to patient's known hypogammaglobulinemia, or collagen 
vascular disease such as goodpasture's syndrome. Exposure to 
recreational drugs might be considered as well. Overall the 
findings have progressed since the prior study obtained in 
___. 
  
2. Chronic mild upper lobe bronchiectasis and bronchial wall 
thickening may be secondary to asthma or patient's known 
hypogammaglobulinemia. 
  
3. New pneumatoceles may be sequale of prior infection or active 
infection 
such as PCP.  
  
4. Marked osteopenia with multiple stable vertebral body 
compression fractures and old rib fractures. 

Discharge labs:

 
Brief Hospital Course:
___ year old female with past medical history of asthma 
complicated by multiple intubations and IV drug abuse 
complicated by septic shock and septic arthritis. She was sent 
from ___ for ED evaluation of pneumonia after her oxygen 
saturation was noted to be low.

#. Hypoxia, fevers:  She was found to have possible multifocal 
pneumonia on CXR, she was initially treated broadly with 
Vancomycin, Zosyn, and Azithromycin, which was then narrowed to 
Levofloxacin and Ceftriaxone and changed to Levofloxacin and 
Cefpodoxime before dischage (planned last day ___.  Blood 
cultures were sent and are pending.  Sputum culture was 
negative.  She had a CT chest which showed ground glass 
opacities bilaterally possibly reflecting infection vs 
drug-induced lung injury.  She was treated with nebulizer 
treatments and a short course of prednisone for possible 
contribution of her underlying asthma.  Patient was originally 
started on Tamiflu but then tested negative for influenza and 
her tamiflu was stopped.  Attempted ICU consent with patient 
over course of stay however too somnolent at first and then 
refused to discuss because she wanted to eat.  It was eventually 
signed as she was leaving and at that time full code status was 
confirmed.

#. Somnolence:  She had somnolence initially on presentation 
that was thought to be related to a toxic ingestion given her 
past history of drug abuse in conjunction with verbal report 
from ED that patient went to restroom and came back to ED room 
much more somnolent.  Serum and urine tox screen were 
unrevealing, and she had no further episodes.

#. Asthma:  Patient had suboptimal air movement at presentation 
to the ICU with inspiratory and expiratory wheezing and some 
slight tachypnea. She was treated with standing albuterol and 
ipratropium nebs, her home regimen of monteleukast and advair.  
She was also treated with a prednisone taper.  It seemed that 
the patient's chronic respiratory sxs might not be due to asthma 
(overall low lung volumes and does not require chronic steroids 
like she has as a child) but to other chronic lung disease. The 
patient was presented at the pulmonary conference and she will 
need outpatient pulmonary follow-up. She was given the phone 
number to schedule an appointment.

#. Knee pain: Patient had a left knee arthrocentesis on ___ 
which showed 175/uL WBCs with 95%PMNs. Gram stain had no PMS and 
no organisms. Culture was preliminarily negative. She had no 
warmth and tenderness on exam. However, in the setting of joint 
prosthesis, she will need cautious monitoring off of antibiotic 
therapy. She was ambulatory at time of discharge and was given 
the number of infectious disease to schedule a follow-up 
appointment.

#. Opiate addiction: She was continued on a methadone taper.  
The last day was 5mg on ___.

#. Psychiatric disease: She was very demanding during this 
admission and psychiatry was consulted regarding her erratic 
behavior.  She was noted to be aggravated easily and the psych 
team felt she should have a 1:1 sitter.  She had a Code Purple 
called for aggressive and agitated behavior and was given Ativan 
and Seroquel with good effect.

 
Medications on Admission:
*per discharge summary earlier today*  
1) Ipratropium Bromide 0.02 % Q4H:PRN shortness of breath or 
wheezing  
2) Fluticasone-Salmeterol 250-50 mcg/Dose BID  
3) Montelukast 10 mg PO QHS  
4) Folic Acid 1 mg PO DAILY  
5) Ibuprofen 400 mg PO Q8H:PRN pain  
6) Thiamine HCl 100 mg PO DAILY  
7) Multivitamin PO DAILY  
8) Gabapentin 800 mg PO Q8H  
9) Tramadol 50 mg PO Q8H:PRN pain  
10) Methadone 15 mg PO DAILY  
11) Levofloxacin 750 mg PO once a day for 7 days (Day 1 = 
___  

 
Discharge Medications:
1. Ipratropium Bromide 0.02 % Solution Sig: One (1) Inhalation 
Inhalation every four (4) hours as needed for shortness of 
breath or wheezing.
Disp:*qs 1 months supply* Refills:*0*
2. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).
Disp:*1 Disk with Device(s)* Refills:*2*
3. Montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
4. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
5. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
6. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
7. Gabapentin 400 mg Capsule Sig: Two (2) Capsule PO Q8H (every 
8 hours): Hold for sedation.  
8. Tramadol 50 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.  
9. Levofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours) for 2 days: Please take this medication daily through 
___.
Disp:*2 Tablet(s)* Refills:*0*
10. Prednisone 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily) for 1 doses: Take 60mg by mouth daily through ___.
Disp:*3 Tablet(s)* Refills:*0*
11. Quetiapine 25 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day).
Disp:*60 Tablet(s)* Refills:*0*
12. Quetiapine 100 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).
Disp:*30 Tablet(s)* Refills:*0*
13. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) Inhalation Inhalation Q2H (every 2 
hours) as needed for dyspnea or wheezing.  
14. Lorazepam 1 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day) as needed for anxiety.
Disp:*60 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Pneumonia

Secondary Diagnosis:
Asthma
Hypoxia

 
Discharge Condition:
Mental Status: Clear and coherent
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - Independent
Oxygen saturation 96% room air

 
Discharge Instructions:
You were admitted to the hospital because your oxygen level was 
low in your blood.  You were given nebulizer treatments, 
antibiotics, and were treated with prednisone to help your 
breathing.

Changes to your medications:
INCREASED Tramadol to 50mg by mouth every 6 hours as needed for 
pain
DECREASED methadone to 5mg by mouth once on ___ and ___, 
then stop this medication
ADDED Seroquel 50mg by mouth twice daily and 100mg by mouth at 
night
ADDED Ativan 1mg by mouth three times daily as needed for 
anxiety
 
Followup Instructions:
___